US09388199B2
B. Methanesulfonic acid (S)-2-tert-butoxycarbonylamino-4,4-dimethyl-pentyl ester
To a solution of ((S)-1-hydroxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester (250 mg, 0.756 mmol) and triethylamine (0.116 mL, 0.832 mmol) in CH2Cl2 (4 mL) cooled at −10° C. was added under nitrogen atmosphere mesylchloride (0.065 mL, 0.832 mmol) and the reaction mixture was stirred at 0° C. for 1.5 h. The reaction mixture was quenched with ice and water then extracted twice with EtOAc. The combined organic layers were washed with water, dried (Na2SO4), filtered and concentrated. The crude material (colorless oil) was used without purification in the next step. TLC, Rf (c-hexane/EtOAc 1:1): 0.46.

reactant | ((S)-1-hydroxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester | 0.756 mmol, 250 mg | C(C)(C)(C)OC(N[C@@H](CC(C)(C)C)CO)=O | C12H25NO3
reactant | triethylamine | 0.832 mmol, 0.116 mL | C(C)N(CC)CC | C6H15N
reactant | mesylchloride | 0.832 mmol, 0.065 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid (S)-2-tert-butoxycarbonylamino-4,4-dimethyl-pentyl ester | C(C)(C)(C)OC(=O)N[C@H](COS(=O)(=O)C)CC(C)(C)C | C13H27NO5S
